US05808062
3-[Bis(phenylmethyl)amino]-4-hydroxy-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method D using 3-amino-4-hydroxy-6-phenyl-2H-pyran-2-one hydrochloride (0.150 g, 0.626 mmol), 1% acetic acid in dimethylformamide (7 mL), benzaldehyde (0.133 mL, 1.33 mmol), sodium cyanoborohydride (0.083 g, 1.31 mmol). m.p. 130°-135° C.; 1H NMR (400 MHz, DMSO-d6) δ 4.26 (s, 4 H), 6.44 (s, 1 H), 7.24 (m, 6 H), 7.44 (m, 7 H), 7.69 (m, 2 H).

reactant | 3-amino-4-hydroxy-6-phenyl-2H-pyran-2-one hydrochloride | 0.626 mmol, 0.150 g | Cl.NC=1C(OC(=CC1O)C1=CC=CC=C1)=O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | benzaldehyde | 1.33 mmol, 0.133 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 1.31 mmol, 0.083 g | C(#N)[BH3-].[Na+]
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 3-[Bis(phenylmethyl)amino]-4-hydroxy-6-phenyl-2H-pyran-2-one | C1(=CC=CC=C1)CN(C=1C(OC(=CC1O)C1=CC=CC=C1)=O)CC1=CC=CC=C1 | C25H21NO3
